US04372953
1-Methyl-5-mercapto-1,2,3,4-tetrazole (1.2 g), potassium carbonate (2.1 g) and 3-chloropropyl 4-methyl-5-thiazolyl ketone (3.1 g) are added to acetone (50 ml) and the mixture is refluxed with stirring for 2 hours. The reaction mixture is concentrated to dryness under reduced pressure and the residue is dissolved in chloroform. Insolubles are filtered off and the filtrated is concentrated under reduced pressure. The residue is purified by silica gel column chromatography [Kieselgel 60, eluant: benzene-ether (10:1)] and the product is recrystallized from hexane-ether to obtain 1-methyl-5-[3-(4-methyl-5-thiazolylcarbonyl)propyl]thio-1,2,3,4-tetrazole (2.6 g) as colorless needles, m.p. 64°-65° C.

reactant | 1-Methyl-5-mercapto-1,2,3,4-tetrazole | 1.2 g | CN1N=NN=C1S | C2H4N4S
reactant | potassium carbonate | 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloropropyl 4-methyl-5-thiazolyl ketone | 3.1 g | CC=1N=CSC1C(=O)CCCCl | C8H10ClNOS
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-methyl-5-[3-(4-methyl-5-thiazolylcarbonyl)propyl]thio-1,2,3,4-tetrazole | 2.6 g | CN1N=NN=C1SCCCC(=O)C1=C(N=CS1)C | C10H13N5OS2
